US04985419
A mixture of 7-chloro-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbonitrile (31.07 g) and triethylamine (11.8 cc) in anhydrous pyridine (300 cc) is saturated with hydrogen sulphide for 4 hours at 25° C. The clear solution obtained is kept stirred for 12 hours at 25° C. The mixture is outgassed by bubbling nitrogen through for 2 hours, then diluted with ethyl acetate (250 cc) and washed with distilled water (5×200 cc). The organic phase is dried over magnesium sulphate and filtered, and the filtrate is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa). The residue is purified by chromatography on a column (height: 38 cm; diameter: 6.5 cm) of silica gel (0.06-0.2 mm), eluting with a mixture of cyclohexane and ethyl acetate in proportions (by volume) of 70:30 (6 liters), 50:50 (4 liters) and 30:70 (4 liters), then with pure ethyl acetate (2 liters) and finally with a 90:10 mixture (6 liters) of ethyl acetate and methanol, collecting 50-cc fractions. The first 13.3 liters are discarded and fractions 6 to 94 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 50° C. to give 7-chloro-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinethiocarboxamide (21.43 g).

reactant | 7-chloro-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbonitrile | 31.07 g | ClC=1C=C2SC=3C=CC(=CC3N(C2=CC1)C(CN1CCCC1)C)C#N | C20H20ClN3S
reactant | triethylamine | 11.8 cc | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulphide | S | H2S
solvent | pyridine | 300 cc | N1=CC=CC=C1 | C5H5N
product | 7-chloro-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinethiocarboxamide | 21.43 g | ClC=1C=C2SC=3C=CC(=CC3N(C2=CC1)C(CN1CCCC1)C)C(N)=S | C20H22ClN3S2
